US06624119B1
4-Chloro-2,6-difluoroaniline
35.5 g of 2,6-difluoroaniline were mixed with 200 ml of concentrated acetic acid, and the mixture was heated to 80° C. 42.4 g of sulfuryl chloride were mixed with approximately the same amount of concentrated acetic acid, and the mixture was added dropwise to the heated solution. The mixture was then heated at reflux for six hours. After cooling, the solution was concentrated under reduced pressure and the residue was stirred with water and pentane. The solid residue was filtered off and washed with water. The resulting solid was admixed with 200 ml of concentrated hydrochloric acid and heated at reflux for two hours. After cooling, the solution was carefully made slightly alkaline using aqueous sodium hydroxide solution, and the mixture was extracted three times with 100 ml of ethyl acetate each time. The organic phase was dried over sodium sulfate and freed from the solvent. Yield: 40 g;

reactant | 2,6-difluoroaniline | 35.5 g | FC1=C(N)C(=CC=C1)F | C6H5F2N
reactant | sulfuryl chloride | 42.4 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 4-Chloro-2,6-difluoroaniline | ClC1=CC(=C(N)C(=C1)F)F | C6H4ClF2N
